US08802659B2
6-(trans-4-tert-Butyl-cyclohexyloxy)-2-methyl-4-trifluoromethyl-quinoline
2-Methyl-4-trifluoromethyl-quinolin-6-ol (0.771 g, 0.00339 mol, cis-4-tert-Butyl-cyclohexanol (0.8570 g, 0.005484 mol) and Triphenylphosphine (1.423 g, 0.005425 mol) were placed in a flask, and dissolved in Toluene (25 mL). For the Mitsunobu reaction of certain analogs, THF was substituted for toluene as solvent. Diisopropyl azodicarboxylate (1.137 mL, 0.005430 mol) was then added dropwise. After 3 d stirring at RT, the reaction was evaporated to dryness. The residue was purified by silica gel chromatography using 0-30% ethyl acetate in hexanes as eluent (Rf=0.38 in 3:1 hexanes/ethyl acetate). Isolated was 0.739 g of product (60%). ESI-MS (M+H+): 366.20.

reactant | 2-Methyl-4-trifluoromethyl-quinolin-6-ol | CC1=NC2=CC=C(C=C2C(=C1)C(F)(F)F)O | C11H8F3NO
reactant | cis-4-tert-Butyl-cyclohexanol | 0.005484 mol, 0.8570 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
reactant | Triphenylphosphine | 0.005425 mol, 1.423 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 0.005430 mol, 1.137 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | Toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | 6-(trans-4-tert-Butyl-cyclohexyloxy)-2-methyl-4-trifluoromethyl-quinoline | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)C)C(F)(F)F | C21H26F3NO
